US08119692B2
(S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoic acid (Intermediate C7)
To a suspension of NaH (605 mg, 60% oil dispersion) in 30 mL THF was slowly added at room temperature the crude (S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hex-4-enoic acid isolated above as a solution in 5 mL THF. To this mixture was added dropwise methyl iodide (732 μL, 1.7 g, 11.3 mmol) and the resulting stirred for 3 h at room temperature. The reaction was quenched by the slow addition of 20 mL 1M aqueous HCl and the mixture extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (2×30 mL) and dried over sodium sulfate. Evaporation of solvent afforded the product as an oil which was used directly in the next reaction without further purification.

reactant | NaH | 605 mg | [H-].[Na+]
reactant | (S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-hydroxyethyl)hex-4-enoic acid | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)O)C[C@@H](O)C1=CC=C(C=C1)F | C21H23FO4
reactant | methyl iodide | 11.3 mmol, 732 μL, 1.7 g | CI | CH3I
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoic acid | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)O)C[C@@H](OC)C1=CC=C(C=C1)F | C22H25FO4
